US06048864
(e) 2-Cyclobutyloxy-4-methoxy-6-{1-[4-(morpholinecarbonyl)-1,4-diazepan-1-yl]ethylideneamino}benzonitrile
The subtitle compound was prepared from 3-amino-4-cyano-5-cyclobutyloxyanisole and 1-acetyl-4-(4-morpholinecarbonyl)-1,4-diazepane following the procedure described in Example 14(d) (93%). Rf 0.52 (dichloromethane:methanol:0.880 aqueous ammonia, 92:7:1, v/v). MS m/z 456 (MH)+.

reactant | 3-amino-4-cyano-5-cyclobutyloxyanisole | NC=1C=C(C=C(C1C#N)OC1CCC1)OC | C12H14N2O2
reactant | 1-acetyl-4-(4-morpholinecarbonyl)-1,4-diazepane | C(C)(=O)N1CCN(CCC1)C(=O)N1CCOCC1 | C12H21N3O3
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 2-Cyclobutyloxy-4-methoxy-6-{1-[4-(morpholinecarbonyl)-1,4-diazepan-1-yl]ethylideneamino}benzonitrile | C1(CCC1)OC1=C(C#N)C(=CC(=C1)OC)N=C(C)N1CCN(CCC1)C(=O)N1CCOCC1 | C24H33N5O4
